US04552874
2-Hydroxyethyl-9-methylpyrazolo[4,3-b][1,4]benzoxazine
A mixture of 9.36 g (50 mmols) of 9-methylpyrazolo[4,3-b][1,4]benzoxazine and 13.2 g (150 mmols) of ethylene carbonate is stirred at 180°-200° C. for 10 minutes and at 200°-220° C. for 20 minutes and the mixture is separated by chromatography on silica gel with ethyl acetate.

reactant | 9-methylpyrazolo[4,3-b][1,4]benzoxazine | 50 mmols, 9.36 g | CN1C2=C(OC3=C1C=CC=C3)C=NN2 | C10H9N3O
reactant | ethylene carbonate | 150 mmols, 13.2 g | C1(OCCO1)=O | C3H4O3
product | 2-Hydroxyethyl-9-methylpyrazolo[4,3-b][1,4]benzoxazine | OCCC1=NNC2=C1OC1=C(N2C)C=CC=C1 | C12H13N3O2
